US07138361B2
Step A: Preparation of 3-(1-ethylpropyl)-1H-pyrazole
To a stirred suspension of sodium methoxide (23.6 g, 0.437 mol) in diethyl ether (˜800 mL) was added dropwise a solution of 3-ethyl-2-pentanone (49.9 g, 0.437 mol) and ethyl formate (32.4 g, 0.437 mol) in diethyl ether (˜200 mL) at temperatures between 10° C. and 20° C. After the addition, the reaction mixture was allowed to warm up to room temperature, and stirred at room temperature for 2 hours. Additional diethyl ether (˜800 mL) was then added. The reaction mixture was stirred at room temperature for one additional hour and then concentrated. The residue was suspended in a solution of ethanol (950 mL) and acetic acid (30 mL). To this suspension was added hydrazine monohydrate (24 mL, 0.49 mol). The reaction mixture was heated at reflux for 60 hours and was then allowed to cool slowly to room temperature. The reaction mixture was then concentrated. To the residue was added 200 mL of 1N hydrochloric acid, followed by ˜75 mL of concentrated hydrochloric acid until pH ˜0. The acidic aqueous solution was then washed twice with diethyl ether (˜250 mL each). The pH of the aqueous solution was then adjusted to 9–10 by addition of aqueous 50% sodium hydroxide solution. The aqueous solution was then extracted twice with diethyl ether (˜300 mL each). The diethyl ether extracts were combined, dried over MgSO4 and concentrated to give the title compound as a pale yellow oil (41 g).

reactant | sodium methoxide | 0.437 mol, 23.6 g | C[O-].[Na+]
reactant | 3-ethyl-2-pentanone | 0.437 mol, 49.9 g | C(C)C(C(C)=O)CC | C7H14O
reactant | ethyl formate | 0.437 mol, 32.4 g | C(=O)OCC | C3H6O2
reactant | hydrazine monohydrate | 0.49 mol, 24 mL | O.NN
solvent | diethyl ether | ˜800 mL | C(C)OCC | C4H10O
solvent | diethyl ether | ˜200 mL | C(C)OCC | C4H10O
solvent | diethyl ether | ˜800 mL | C(C)OCC | C4H10O
product | 3-(1-ethylpropyl)-1H-pyrazole | 41 g | C(C)C(CC)C1=NNC=C1 | C8H14N2
